US06025382
Preparation of 2-[4-[2-(1-Iminoethylamino)ethyl]-phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-benzo[b]thiophene.
2-[4-(2-Aminoethyl)phenyl]-3-[4-[2-(1-pyrrolidinyl)-ethoxy]benzyl]benzo[b]thiophene (100 mg) was dissolved in dichloromethane:methanol (2:5, 7.0 mL), treated with triethylamine (0.2 mL) and ethyl acetimidate hydrochloride (135 mg) sequentially and allowed to stir at ambient temperature for 4 h. The reaction mixture was concentrated and fractionated by column chromatography with NH4OH:MeOH:EtOAc (10:20:70) to afford the title compound (51 mg).

reactant | 2-[4-(2-Aminoethyl)phenyl]-3-[4-[2-(1-pyrrolidinyl)-ethoxy]benzyl]benzo[b]thiophene | 100 mg | NCCC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C29H32N2OS
reactant | triethylamine | 0.2 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetimidate hydrochloride | 135 mg | Cl.C(C)(OCC)=N
solvent | dichloromethane methanol | 7.0 mL | ClCCl.CO
product | 2-[4-[2-(1-Iminoethylamino)ethyl]-phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]-benzo[b]thiophene | 51 mg | N=C(C)NCCC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C31H35N3OS
